US07820707B2
b) N-(3-Formyl-4,5,6,7-tetrahydro-benzo[b]thiophen-2-yl)-2-(3-trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetamide
Phosphorus oxychloride (399 μl, 4.28 mmol) was added dropwise to a stirred solution of DMF (332 μl, 4.28 mmol) in 1,2-dichloroethane (3 mL). A suspension of N-(4,5,6,7-tetrahydro-benzo[b]thiophen-2-yl)-2-(3-trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetamide (1.64 g, 4.28 mmol) in 1,2-dichloroethane (80 mL) was added portionwise with stirring, and the mixture stirred at RT for 15 min. The resulting yellow solution was refluxed for 20 min. After cooling to RT, the mixture was added to a solution of sodium acetate (13.6 g, 166 mmol, in 130 mL of water) and the solution heated at 50° C. for 20 min. After cooling to RT, the solution was diluted with DCM (100 mL), and the phases separated. The aqueous layer was extracted with DCM (100 mL) and the combined organics washed with saturated sodium bicarbonate solution (100 mL), dried over sodium sulphate and concentrated in vacuo to afford the title compound as a yellow solid (1.52 g, 3.70 mmol, 86%).

reactant | Phosphorus oxychloride | 4.28 mmol, 399 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 4.28 mmol, 332 μl | CN(C)C=O | C3H7NO
reactant | N-(4,5,6,7-tetrahydro-benzo[b]thiophen-2-yl)-2-(3-trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetamide | 4.28 mmol, 1.64 g | S1C2=C(C=C1NC(CN1N=C(C=3CCCCC13)C(F)(F)F)=O)CCCC2 | C18H20F3N3OS
reactant | sodium acetate | 166 mmol, 130 mL, 13.6 g | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Formyl-4,5,6,7-tetrahydro-benzo[b]thiophen-2-yl)-2-(3-trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetamide | 3.70 mmol, 1.52 g, 86% | C(=O)C=1C2=C(SC1NC(CN1N=C(C=3CCCCC13)C(F)(F)F)=O)CCCC2 | C19H20F3N3O2S
